US06455550B1
A solution of 1-benzylcyclopentane carboxylic acid (0.135 g, 0.66 mmol), 4-nitro-L-phenylalanine methyl ester (0.187 g, 0.72 mmol), and HBTU (0.272 g, 0.72 mmol) in 2 mL of DMF was treated with diisopropylethylamine (0.35 mL, 2 mmol). The mixture was stirred over night, concentrated, diluted with ethyl acetate, washed with water, 1 N HCl, water, saturated NaHCO3 and dried (MgSO4). The residue obtained after evaporation was purified by chromatography over 30 g of silica gel, eluting with 40% ethyl acetate:hexane to give 4-nitro-N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester (194 mg, 71%). as a white foam.

reactant | 1-benzylcyclopentane carboxylic acid | 0.66 mmol, 0.135 g | C(C1=CC=CC=C1)C1(CCCC1)C(=O)O | C13H16O2
reactant | 4-nitro-L-phenylalanine methyl ester | 0.72 mmol, 0.187 g | COC([C@@H](N)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C10H12N2O4
reactant | HBTU | 0.72 mmol, 0.272 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 2 mmol, 0.35 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-nitro-N-[[1-(phenylmethyl)cyclopentyl]carbonyl]-L-phenylalanine methyl ester | 194 mg, 71% | COC([C@@H](NC(=O)C1(CCCC1)CC1=CC=CC=C1)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C23H26N2O5
